US05840917
1,3-Dimethyl-2-(2-thienyl)imidazolidine (5.46 g) (synthesized in accordance with the method described in Tetrahedron, 41, 3803 (1985)) and N,N,N',N'-tetramethylethylenediamine (4.7 ml) were dissolved in tetrahydrofuran (150 ml). The mixture was cooled to -78° C., and n-butyllithium (1.6M in hexane, 19.5 ml) was slowly added dropwise. The mixture was stirred at the same temperature for 2 hours, and iodoethane (2.4 ml) was added. The mixture was slowly heated to room temperature and then stirred for 15 hours. The reaction mixture was concentrated under reduced pressure, and 10% sulfuric acid (200 ml) was added to the residue. The mixture was stirred for 24 hours and extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give 5-ethyl-2-thiophenecarbaldehyde (1.68 g) as oil. 5-ethyl-2-thiophenecarbaldehyde (1.68 g) was dissolved in acetonitrile (20 ml), and sodium dihydrogen phosphate (0.54 g) in water (10 ml) and 30% hydrogen peroxide (2.0 ml) were added. Sodium chlorite (3.0 g) in water (20 ml) was then added dropwise under ice-cooling. The mixture was stirred at room temperature for 2 hours, alkalified with 1N sodium hydroxide and washed with diethyl ether. The aqueous layer was acidified with 1N hydrochloric acid and extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give 5-ethyl-2-thiophenecarboxylic acid (1.48 g) as crystals.

reactant | 1,3-Dimethyl-2-(2-thienyl)imidazolidine | 5.46 g | CN1C(N(CC1)C)C=1SC=CC1 | C9H14N2S
reactant | N,N,N',N'-tetramethylethylenediamine | 4.7 ml | CN(CCN(C)C)C | C6H16N2
reactant | n-butyllithium | 1.6M, 19.5 ml | C(CCC)[Li]
reactant | iodoethane | 2.4 ml | ICC | C2H5I
reactant | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 5-ethyl-2-thiophenecarbaldehyde | 1.68 g | C(C)C1=CC=C(S1)C=O | C7H8OS
